US04144235
A 15.45 g. portion of 4-ethoxy-3-thiophenecarboxylic acid is suspended in 30 ml. of chloroform. To this is added dropwise 8.1 ml. of sulfuryl chloride with stirring. The mixture is stirred for 30 minutes and the precipitate is collected, giving 5-chloro-4-ethoxy-3-thiophenecarboxylic acid.

reactant | 4-ethoxy-3-thiophenecarboxylic acid | C(C)OC=1C(=CSC1)C(=O)O | C7H8O3S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-4-ethoxy-3-thiophenecarboxylic acid | ClC1=C(C(=CS1)C(=O)O)OCC | C7H7ClO3S
